US04098791
In the manner given in Example 2, 1-pyrrolidinecarbonitrile is treated with sodium methoxide in methanol to give methyl 1-pyrrolidinecarboximidate.

reactant | 1-pyrrolidinecarbonitrile | N1(CCCC1)C#N | C5H8N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 1-pyrrolidinecarboximidate | N1(CCCC1)C(OC)=N | C6H12N2O
